US06083961
A mixture of 2-ethoxycarbonyl-7-methoxybenzofuran (360 mg), lithium borohydride (36 mg) in tetrahydrofuran (4 ml) was stirred at ambient temperature overnight and then for 8 hours at 50° C. Saturated ammonium chloride solution was added to the reaction mixture, and the solution was extracted with ethyl acetate. The extract was washed with saturated ammonium chloride solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash chromatography (n-hexane-ethyl acetate) to give 2-hydroxymethyl-7-methoxybenzofuran (310 mg).

reactant | 2-ethoxycarbonyl-7-methoxybenzofuran | 360 mg | C(C)OC(=O)C=1OC2=C(C1)C=CC=C2OC | C12H12O4
reactant | lithium borohydride | 36 mg | [BH4-].[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2-hydroxymethyl-7-methoxybenzofuran | 310 mg | OCC=1OC2=C(C1)C=CC=C2OC | C10H10O3
